US07572820B2
A. Methyl [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetate
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile, methyl bromoacetate (1.5 eq), and Cs2CO3 (1.5 eq): MS (ES) m/z 295 (M−1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | methyl bromoacetate | 1.5 eq | BrCC(=O)OC | C3H5BrO2
reactant | Cs2CO3 | 1.5 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
product | Methyl [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetate | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)OC)C)C(F)(F)F | C14H11F3N2O2
